US04722929
1,3-Dimethyl-8-(2-methoxy-4-dimethylaminosulfonyl-phenyl)-1H,3H-purin-2,6-dione
Prepared analogously to Example 11 from 1,3-dimethyl-8-(2-methoxy-4-chlorosulfonyl-phenyl)-1H,3H-purin-2,6-dione and dimethylamine.

reactant | 1,3-dimethyl-8-(2-methoxy-4-chlorosulfonyl-phenyl)-1H,3H-purin-2,6-dione | CN1C(N(C=2N=C(NC2C1=O)C1=C(C=C(C=C1)S(=O)(=O)Cl)OC)C)=O | C14H13ClN4O5S
reactant | dimethylamine | CNC | C2H7N
product | 1,3-Dimethyl-8-(2-methoxy-4-dimethylaminosulfonyl-phenyl)-1H,3H-purin-2,6-dione | CN1C(N(C=2N=C(NC2C1=O)C1=C(C=C(C=C1)S(=O)(=O)N(C)C)OC)C)=O | C16H19N5O5S
